US06660744B1
A solution of 3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.743 g, 0.00245 mol) in N,N-dimethylformamide (20 mL) was reacted with 3-propylidenecyclobutyl methanesulfonate (0.699 g, 0.00367 mol) and cesium carbonate (0.866 g, 0.00367 mol) at 70° C. for three days. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with water (2×20 mL) and brine (20 mL). The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by flash column chromatography on silica using dichloromethane/methanol (98:2). The solvent was removed in vacuo to give 3-(4-phenoxyphenyl)-1-(3-propylidenecyclobutyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.655 g, 0.00165 mol) as a tan solid.

reactant | 3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00245 mol, 0.743 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N | C17H13N5O
reactant | 3-propylidenecyclobutyl methanesulfonate | 0.00367 mol, 0.699 g | CS(=O)(=O)OC1CC(C1)=CCC | C8H14O3S
reactant | cesium carbonate | 0.00367 mol, 0.866 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-(4-phenoxyphenyl)-1-(3-propylidenecyclobutyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00165 mol, 0.655 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CC(C2)=CCC | C24H23N5O
